US07723336B2
To a vial containing crude 6-chloro-8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazine-3-carboxamide 35 mgs from 1a was added trans-1,4-cyclohexyldiamine (250 mgs, mmol). The resulting mixture was heated to 160° C. for 4 h. The mixture was cooled to room temperature and diluted with water causing a precipitate to form. The precipitate was collected, washed with water and dried to give crude 6-((trans)-4-aminocyclohexylamino)-8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazine-3-carboxamide.

reactant | 6-chloro-8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazine-3-carboxamide | 35 mgs | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)N)N(C2=CC=CC=C2)CC2=CC=C(C=C2)OC | C21H18ClN5O2
reactant | trans-1,4-cyclohexyldiamine | 250 mgs | C1CC(CCC1N)N | C6H14N2
solvent | water | O | H2O
product | 6-((trans)-4-aminocyclohexylamino)-8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazine-3-carboxamide | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C(=CN2)C(=O)N)N(C2=CC=CC=C2)CC2=CC=C(C=C2)OC | C27H31N7O2
